US08895769B2
Ethyl 4-(1-methyl-1-silacyclopentan-1-yl)-3-cyanobutanoate (1.306 g, 5.46 mmol) was hydrolyzed with lithium hydroxide in the same manner as that of Example 16, and then the reaction mixture was treated in a conventional manner. The residue was purified by silica gel column chromatography (2% methanol/chloroform) to obtain 4-(1-methyl-1-silacyclopentan-1-yl)-3-cyanobutanoic acid (1.158 g, quant.) mentioned in the title as colorless oil.

reactant | Ethyl 4-(1-methyl-1-silacyclopentan-1-yl)-3-cyanobutanoate | 5.46 mmol, 1.306 g | C[Si]1(CCCC1)CC(CC(=O)OCC)C#N | C12H21NO2Si
reactant | lithium hydroxide | [OH-].[Li+]
product | 4-(1-methyl-1-silacyclopentan-1-yl)-3-cyanobutanoic acid | 1.158 g | C[Si]1(CCCC1)CC(CC(=O)O)C#N | C10H17NO2Si
